US05430027
N-Methyl-2-phenylethylamine hydrochloride.
Phenylacetaldehyde (24.0 g, 0.20 mol), a 33% solution of methylamine in ethanol (42.35 g, 0.41 mol) and methylamine hydrochloride (10.13 g, 14.8 mmol) were dissolved in methanol (200 ml). Sodium cyanoborohydride (3.77 g, 60 mmol) was introduced and the reaction mixture was stirred at room temperature for 18 h. The reaction mixture was evaporated in vacuo to ca. 50 ml, concentrated hydrochloric acid (40 ml) was added and once the exotherm had subsided the reaction mixture was stirred for 2 h. Water (200 ml) was introduced followed by potassium hydroxide (27 g, 0.48 mol) and the cooled solution was extracted with dichloromethane (7×100 ml). The combined dichloromethane extracts were extracted with 2N hydrochloric acid solution (200 ml) and 0.2N hydrochloric acid solution (200 ml). The combined acidic extracts were washed with dichloromethane (2×50 ml) and the aqueous phase was basified with 4N sodium hydroxide solution before being extracted with dichloromethane (2×100 ml). The combined extracts were dried (MgSO4) and evaporated to a residue (9.2 g) which was dissolved in toluene (200 ml) with methanol (5 ml) present. Chlorotrimethylsilane (8.63 ml) dissolved in toluene (300 ml) was added and the hydrochloride salt of N-methyl-2-phenylethylamine precipitated. After cooling the suspension, the solid was collected by filtration and dried in vacuo; 1H NMR (DMSO-d6)γ2.54 (3H, s, --CH3), 2.92-3.07 (4H, m, --CH2CH2 --), 7.20-7.40 (5H, m, Ar-H).

reactant | Phenylacetaldehyde | 0.20 mol, 24.0 g | C1(=CC=CC=C1)CC=O | C8H8O
reactant | methylamine | CN | CH5N
reactant | ethanol | 0.41 mol, 42.35 g | C(C)O | C2H6O
reactant | methylamine hydrochloride | 14.8 mmol, 10.13 g | Cl.CN
reactant | Sodium cyanoborohydride | 60 mmol, 3.77 g | C(#N)[BH3-].[Na+]
reactant | potassium hydroxide | 0.48 mol, 27 g | [OH-].[K+]
solvent | methanol | 200 ml | CO | CH4O
product | N-Methyl-2-phenylethylamine hydrochloride | Cl.CNCCC1=CC=CC=C1 | InChI=1S/C9H13N.ClH/c1-10-8-7-9-5-3-2-4-6-9;/h2-6,10H,7-8H2,1H3;1H
